US07851473B2
4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-3-thienylpiperazine-1-carboxamide
To a solution of 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and triethylamine (0.113 ml, 0.812 mmol) in tetrahydrofuran (2 ml) was added 3-thienyl isocyanate (0.152 ml, 1.22 mmol) at room temperature, and the mixture was stirred at room temperature for 1 hour. The solvent was distilled off under reduced pressure. The residue was purified by high performance liquid chromatography (YMC HPLC Column eluted with 10% to 100% Liquid A; Liquid A: a 0.1% solution of trifluoroacetic acid in acetonitrile; Liquid B: an aqueous 0.1% trifluoroacetic acid solution) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 50.0 mg (16.6%) of the desired product.

reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | triethylamine | 0.812 mmol, 0.113 ml | C(C)N(CC)CC | C6H15N
reactant | 3-thienyl isocyanate | 1.22 mmol, 0.152 ml | S1C=C(C=C1)N=C=O | C5H3NOS
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-3-thienylpiperazine-1-carboxamide | 50.0 mg, 16.6% | C1(=CC=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)NC1=CSC=C1 | C17H17N5OS2
